US06616989B1
2-Butylthiophene (obtained by Friedel-Crafts acylation of thiophene with butyryl chloride followed by Wolf-Kizner reduction in accordance with EP-A 0 392 510) is acetylated with acetyl chloride in dichloromethane under AlCl3 catalysis. Customary work-up followed by purification by distillation affords 2-acetyl-5-butylthiophene, b.p. 92° C./0.8 mbar.

reactant | 2-Butylthiophene | C(CCC)C=1SC=CC1 | C8H12S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-acetyl-5-butylthiophene | C(C)(=O)C=1SC(=CC1)CCCC | C10H14OS
